US04058614
To a suspension of 2-(3-pyridyl)-imidazole (1.5 g., 0.01 moles) in chloroform (150 ml.) is added dropwise with stirring over one hour at reflux N-chlorosuccinimide (2.6 g., 0.02 moles). The reaction mixture is heated three hours at reflux. After cooling, the solvent is removed at 20 mm. and the residue triturated with water while heating on a steam bath. The resulting solid is filtered and after recrystallization from acetonitrile 400 mg. of 2-(3-pyridyl)-4,5-dichloroimidazole is obtained, m.p. 237°-238° C.

reactant | 2-(3-pyridyl)-imidazole | 0.01 moles, 1.5 g | N1=CC(=CC=C1)C=1NC=CN1 | C8H7N3
reactant | N-chlorosuccinimide | 0.02 moles, 2.6 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-pyridyl)-4,5-dichloroimidazole | N1=CC(=CC=C1)C=1NC(=C(N1)Cl)Cl | C8H5Cl2N3
